US07838483B2
A solution of 3-(2-ethoxyethoxy)propanenitrile (1 g, 7 mmol) and NH2OH (50% in water, 0.64 cm3, 10.5 mmol) in EtOH (10 cm3) were heated to reflux for 24 hours, after which the solvent and excess hydroxylamine were removed by rotary evaporator. The residue was freeze-dried and kept in high vacuum line for several hours to give 3(2-ethoxyethoxy)N′-hydroxypropanimidamide (1.2 g, 97.6%) as a colourless oil.

reactant | 3-(2-ethoxyethoxy)propanenitrile | 7 mmol, 1 g | C(C)OCCOCCC#N | C7H13NO2
reactant | NH2OH | 10.5 mmol, 0.64 cm3 | NO | H3NO
solvent | EtOH | 10 cm3 | CCO | C2H6O
product | 3(2-ethoxyethoxy)N′-hydroxypropanimidamide | 1.2 g, 97.6% | C(C)OCCOCCC(N)=NO | C7H16N2O3
